US06110934
5-Amino-2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline
An ice cold solution of 5-amino-1,2,3,4-tetrahydroisoquinoline (6.45 g, 44 mmol) in 1,4-dioxane (250 ml) was treated with 3M sodium hydroxide (14.7 ml, 44 mmol), and di-tert-butyl-dicarbonate (9.57 ml, 44 mmol) and the solution was stirred at room temperature overnight. The reaction mixture was then poured into water (400 ml) and extracted with ether. The organic phases were dried over sodium sulfate and concentrated in vacuo to afford a brown oil which solidified on sthanding and was recrystallised from ethanol/petrol to afford the title compound as an off white crystalline solid (5.1 g).

reactant | 5-amino-1,2,3,4-tetrahydroisoquinoline | 44 mmol, 6.45 g | NC1=C2CCNCC2=CC=C1 | C9H12N2
reactant | sodium hydroxide | 44 mmol, 3M, 14.7 ml | [OH-].[Na+]
reactant | di-tert-butyl-dicarbonate | 44 mmol, 9.57 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 400 ml | O | H2O
solvent | 1,4-dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 5-Amino-2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C(=O)OC(C)(C)C | C14H20N2O2
